US04471139
3-Oxo-2-Hydroxybutylmercaptoacetaldehyde Dimethylacetal
To a solution of 200 mg. (0.8 mmol) of 2-acetoxy-3-oxobutylmercaptoacetaldehyde dimethylacetal in 2 ml. of methanol was added 110 mg. (0.8 mmol) of K2CO3. The reaction mixture was stirred 10 minutes, filtered, diluted with water and extracted with CHCl3. The CHCl3 extract was dried over Na2SO4, filtered and evaporated to 123 mg. (75%) of keto alcohol product: 1H-NMR (CDCl3) delta 2.20 (s, 3), 2.85 (m, 4), 3.32 (s, 6), 4.32 (m, 1), 4.45 (t, 1).

reactant | 2-acetoxy-3-oxobutylmercaptoacetaldehyde dimethylacetal | 0.8 mmol | COC(C(OC(C)=O)SCCC(C)=O)OC | C10H18O5S
reactant | K2CO3 | 0.8 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | CO | CH4O
product | 3-Oxo-2-Hydroxybutylmercaptoacetaldehyde Dimethylacetal | COC(CSCC(C(C)=O)O)OC | C8H16O4S
